Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / tetracycline
 
Attending: ___.
 
Chief Complaint:
gestational hypertension noted on routine office visit
 
Major Surgical or Invasive Procedure:
LTCS

 
History of Present Illness:
___ yo twins diagnosed at ___ ___ with hypertension and 
proteinuria in office. Sent to hospital for evaluation. Pt 
denies headache, visual changes, epigastric pain or swelling.
Twins concordant in growth.
Pregnancy previously uncomplicated.

 
Social History:
Works as ___ at ___. 
Married.
Has dogs. 
 
Pertinent Results:
Admission pre eclampsia blood work normal with 
creatinine 0.6, uric acid 6.1, hct 30.7 and platelets 171
24 hour urine protein showed 15gm of protein in severe range

 
Brief Hospital Course:
Pt was admitted to the antepartum service for 34 ___ week twins 
with pre eclampsia.
Her blood pressures were in the mild range, her Babies were 
normally growing, her blood work did not suggest HELLP and she 
had no symptoms. 
She did have severe range proteinuria.
She was amitted for bid NST's and EFW was planned for ___.
On ___ at 35 ___ weeks she developed severe range blood 
pressures and decision was made to bring her to L&D for delivery 
via induction of labor. 
She underwent a LTCS for fetal intolerance of labor
The surgery was uncomplicated.
She did not require any antihypertensive medications after 
delivery.
 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium 100 mg 1 (One) capsule(s) by mouth twice a 
day Disp #*20 Capsule Refills:*0
2. Ibuprofen 600 mg PO Q6H:PRN Pain 
Take with food 
RX *ibuprofen 600 mg 1 (One) tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0
3. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 to 2 tablet(s) by mouth every four (4) 
hours Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Twin pregnancy at 35 weeks gestation
Severe PET
LTCS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
per written instructions reviewed by nursing and ___ rounder
Signs of PET stressed
Pelvic rest
 
Followup Instructions:
___